US08530109B2
A perfluorinated polymer precursor (film thickness: 25 μm, sulfonyl fluoride form, EW1100) was treated with 1,1,3,3-tetramethylguanidine in dimethylformamide (DMF) solution at 90° C. for 24 hr. After washing with water, the membrane was dried under a vacuum plate at 75° C. The absorption by C═N was observed at 1525-1580 cm−1 by FT-IR, and C═N and N—CH3 peak was observed at 162 and 39.5 ppm by C-NMR, respectively. Tetramethlguanidine functionalized perfluorinated polymers were further treated with dimethyl sulfate (DMS) in DMF at 90° C. for 24 hr. Pentamethylguanidine functionalized perfluorinated polymer was obtained. Guanidine functionalized perfluorinated polymers were further treated with 1 M NaOH for 4 hr at boiling temperature followed by washing with water.

reactant | sulfonyl fluoride | S(=O)(=O)(F)F | F2O2S
reactant | 1,1,3,3-tetramethylguanidine | CN(C(=N)N(C)C)C | C5H13N3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | Pentamethylguanidine | CN(C(N(C)C)=NC)C | C6H15N3
